US06265349B1
Preparation of 3-(7-fluoro-2,3-dihydro-1,4-benzoxazin-3-on-6-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 2-4)
1.5 g (3.7 mmol) of 3-(2-fluoro-4-methoxycarbonylmethoxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 50 ml of acetic acid, and 0.64 g (11.5 mmol) of iron powder was added under heating and refluxing, followed by stirring for 1 hour. The reaction solution was subjected to filtration, and the filtrate was distilled off under reduced pressure. The obtained residue was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and then, the obtained residue was purified by silica gel column chromatography to obtain 0.95 g (yield: 80%) of the desired product. Melting point: 216-218° C. 1H-NMR (400 MHz, CDCl3) δ value: 3.69(3H,s), 4.60(2H,s), 6.78(1H,d), 6.80(1H,d), 7.18(1H,d), 7.53(1H,d), 8.47(1H,s)ppm.

reactant | 3-(2-fluoro-4-methoxycarbonylmethoxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 3.7 mmol, 1.5 g | FC1=C(C=C(C(=C1)OCC(=O)OC)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C16H12F4N2O6
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 11.5 mmol, 0.64 g | [Fe] | Fe
product | 3-(7-fluoro-2,3-dihydro-1,4-benzoxazin-3-on-6-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.95 g, yield: 80% | FC1=CC2=C(NC(CO2)=O)C=C1C=1C(N(C(=CC1)C(F)(F)F)C)=O | C15H10F4N2O3
